US07276608B2
8A. (S)-(2-Oxo-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester
The title compound may be prepared either as described in US 2004/002495 or as follows: To a solution of (S)-2-(tert-butyloxycarbonylamino)-3-(2-nitrophenyl)propanoic acid (987 mg, 3.18 mmol, Peptech catalog # BL284) in MeOH (100 mL) was added 10% palladium on carbon (300 mg), and the mixture was stirred at RT under hydrogen at 80 psi for 24 h. Filtration and solvent evaporation under vacuum provided the title compound (800 mg) as a foam.

reactant | (S)-2-(tert-butyloxycarbonylamino)-3-(2-nitrophenyl)propanoic acid | 3.18 mmol, 987 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=C(C=CC=C1)[N+](=O)[O-] | C14H18N2O6
solvent | MeOH | 100 mL | CO | CH4O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | (S)-(2-Oxo-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester | 800 mg | C(C)(C)(C)OC(N[C@@H]1C(NC2=CC=CC=C2C1)=O)=O | C14H18N2O3
